US07402680B2
3-(4-Fluoro-phenyl)-2-isopropyl-5,5,7,7-tetramethyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene
The title compound (100 mg) was prepared as in Example 296 using 196 mg of trifluoro-methanesulfonic acid 2-isopropyl-5,5,7,7-tetramethyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulen-3-yl ester and 100 mg of 4-fluorophenylboronic acid. MS (ESI): exact mass calculated for C20H28FN3, 329.23; found, m/z 330.5 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.36-7.27 (m, 4H), 4.31 (m, 1H), 3.10 (s, 2H), 2.70 (s, 2H), 1.47-1.34 (m, 18H).

reactant | trifluoro-methanesulfonic acid 2-isopropyl-5,5,7,7-tetramethyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulen-3-yl ester | 196 mg | C(C)(C)N1N=C2CC(NC(CC2=C1OS(=O)(=O)C(F)(F)F)(C)C)(C)C | C15H24F3N3O3S
reactant | 4-fluorophenylboronic acid | 100 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 3-(4-Fluoro-phenyl)-2-isopropyl-5,5,7,7-tetramethyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene | 100 mg | FC1=CC=C(C=C1)C=1N(N=C2CC(NC(CC12)(C)C)(C)C)C(C)C | C20H28FN3
